US09085581B2
To a solution of (R)-2-(2-(benzyloxy)ethyl)-4-tert-butoxy-4-oxobutanoic acid (120 g, 388 mmol) in DMA (750 mL) was added NaHCO3 (65.2 g, 776 mmol) followed by MeI (36.4 mL, 582 mmol) and stirred overnight at room temperature. Additional NaHCO3 (130 g, 1.55 mol), and MeI (72.8 mL, 1.16 mol) were added and stirring was continuted for an additional 20 h. The mixture was filtered and the filtrate partitioned between MTBE (1.5 L) and H2O (1.5 L). The aqueous phase was separated and back-extracted with MTBE (1.0 L). The combined organics were washed with H2O (2×1.5 L), brine (1 L), dried over MgSO4, and filtered. The filtrate was concentrated to give a pale yellow oil containing (R)-4-tert-butyl 1-methyl 2-(2-(benzyloxy)ethyl)succinate (140 g, 379 mmol, 98% yield). Exact mass calculated for C18H26O5: 322.2, found: LCMS m/z=323.3, [M+H+]; 1H NMR (400 MHz, CDCl3) δ ppm 1.43 (s, 9 H), 1.82 (m, 1 H), 1.97 (m, 1 H), 2.42 (dd, J1=16.3, J2=5.3 Hz, 1 H), 2.63 (dd, J1=16.5, J2=9.0 Hz, 1 H), 2.96 (m, 1 H), 3.50 (t, J=6.2 Hz, 2 H), 3.65 (s, 3 H), 4.48 (s, 2 H), 7.32 (m, 5 H).

reactant | (R)-2-(2-(benzyloxy)ethyl)-4-tert-butoxy-4-oxobutanoic acid | 388 mmol, 120 g | C(C1=CC=CC=C1)OCC[C@@H](C(=O)O)CC(=O)OC(C)(C)C | C17H24O5
reactant | NaHCO3 | 776 mmol, 65.2 g | C(=O)(O)[O-].[Na+]
reactant | MeI | 582 mmol, 36.4 mL | CI | CH3I
reactant | NaHCO3 | 1.55 mol, 130 g | C(=O)(O)[O-].[Na+]
reactant | MeI | 1.16 mol, 72.8 mL | CI | CH3I
solvent | DMA | 750 mL | CC(=O)N(C)C | C4H9NO
product | (R)-4-tert-butyl 1-methyl 2-(2-(benzyloxy)ethyl)succinate | 379 mmol, 140 g, 98% yield | C(C1=CC=CC=C1)OCC[C@@H](C(=O)OC)CC(=O)OC(C)(C)C | C18H26O5
